US08227462B2
(5-Bromo-2-nitro-phenyl)-ethyl-amine
A mixture of 4-bromo-2-fluoro-nitrobenzene (6 g, 27.3 mmol), methylamine (2M in MeOH, 34.1 mL, 68.2 mmol, 2.5 eq) and EtOH (80 mL) is stirred for 15 h at 85° C., allowed to cool and concentrated. The residue purified by trituration to afford 6 g of the title compound as an yellow solid: tR=5.13 min (System 1).

reactant | 4-bromo-2-fluoro-nitrobenzene | 27.3 mmol, 6 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | methylamine | 68.2 mmol, 2M, 34.1 mL, 2.5 eq | CN | CH5N
reactant | EtOH | 80 mL | CCO | C2H6O
product | (5-Bromo-2-nitro-phenyl)-ethyl-amine | 6 g | BrC=1C=CC(=C(C1)NCC)[N+](=O)[O-] | C8H9BrN2O2
